US05403842
8-trifluoroacetamido-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XXIII)
A solution of 9.5 ml of trifluoroacetic anhydride in 20 ml of anhydrous dichlorgmethane was added dropwise at -5°-0° C. to a solution of 5 g of 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran in 50 ml of anhydrous dichloromethane. The reaction mixture was stirred for 2 hours at 20°-25° C. and then poured on to crushed ice. The organic solution obtained by extraction with dichloromethane was washed with cold 5% aqueous sodium bicarbonate solution and with water, and was dried on anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was crystallized from ethanol to give 5.2 g of the title compound, m.p. 175°-176° C.

reactant | trifluoroacetic anhydride | 9.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5 g | NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H13NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 8-trifluoroacetamido-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5.2 g | FC(C(=O)NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O)(F)F | C18H12F3NO3
